US06423869B1
(S)-3-[(2S,3R,4R,5S)-5-(glycyl-L-leucyl)amino-2,3,4,6-tetrahydroxyhexanoyl]amino-3-phenylpropionic acid
Diphenylmethyl (S)-3-[(2S,3R,4R,5S)-5-((N-benzyloxycarbonylglycyl)-L-leucyl)amino-2,3,4,6-tetrahydroxyhexanoyl]amino-3-phenylpropionate (273 ml) was dissolved in methanol (30 ml) and stirred at room temperature with 10% palladium on activated carbon (50 mg) under hydrogen atmosphere for 1.5 hours. After dilution with methanol, the mixture was filtrated and the filtrate was concentrated under reduced pressure to give a residue, which was recrystallized from methanol-diethylether to afford the title compound (154 mg).

reactant | Diphenylmethyl (S)-3-[(2S,3R,4R,5S)-5-((N-benzyloxycarbonylglycyl)-L-leucyl)amino-2,3,4,6-tetrahydroxyhexanoyl]amino-3-phenylpropionate | 273 ml | C(C1=CC=CC=C1)OC(=O)NCC(=O)N[C@@H](CC(C)C)C(=O)N[C@H]([C@H]([C@H]([C@@H](C(=O)N[C@@H](CC(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1)O)O)O)CO | C44H52N4O11
solvent | methanol | 30 ml | CO | CH4O
catalyst | palladium on activated carbon | 50 mg | [Pd] | Pd
product | (S)-3-[(2S,3R,4R,5S)-5-(glycyl-L-leucyl)amino-2,3,4,6-tetrahydroxyhexanoyl]amino-3-phenylpropionic acid | 154 mg | NCC(=O)N[C@@H](CC(C)C)C(=O)N[C@H]([C@H]([C@H]([C@@H](C(=O)N[C@@H](CC(=O)O)C1=CC=CC=C1)O)O)O)CO | C23H36N4O9
